*******************************
*Varistor PSpice Model Netlist*
*******************************
*
* © 	Harris Semiconductor
*	30th April 1998
*	version 3.1
*
* Representing typical characteristics for the following ZA-Series varistors: 
*
* V8ZA05	 V8ZA1	 V8ZA2	 V12ZA05	 V12ZA1	 V12ZA2
* V18ZA05	 V18ZA1	 V18ZA2	 V18ZA3	 V18ZA40
* V22ZA05	 V22ZA1	 V22ZA2	 V22ZA3	 V24ZA50
* V27ZA05	 V27ZA1 	 V27ZA2	 V27ZA4	 V27ZA60
* V33ZA05	 V33ZA1	 V33ZA2	 V33ZA5	 V33ZA70	 V36ZA80
* V39ZA05	 V39ZA1	 V39ZA3	 V39ZA6	 V39ZA20
* V47ZA05	 V47ZA1	 V47ZA3	 V47ZA7	 V47ZA20
* V56ZA05	 V56ZA2	 V56ZA3	 V56ZA8	 V56ZA20
* V68ZA05	 V68ZA2	 V68ZA3	 V68ZA10	 V68ZA20
* V82ZA05	 V82ZA2	 V82ZA4	 V82ZA12
* V100ZA05	 V100ZA3	 V100ZA4	 V100ZA15
* V120ZA05	 V120ZA1	 V120ZA4	 V120ZA6	 V120ZA20
* V150ZA05	 V150ZA1	 V150ZA4	 V150ZA8	 V150ZA20
* V180ZA05	 V180ZA1	 V180ZA5	 V180ZA10	 V180ZA20
* V205ZA05	 V220ZA05	 V240ZA05	 V270ZA05	 V330ZA05
* V360ZA05	 V390ZA05	 V430ZA05	 V470ZA05	 V620ZA05
* V680ZA05	 V715ZA05	 V750ZA05
*
*
.SUBCKT MOV  1 2 PARAMS: T=1 C=1pF L=1nH a1=1 a2=0 a3=0 a4=0 a5=0 a6=100u a7=100u
E_non_lin   3 1     VALUE={(T)*(
+ 			a1+a2*(log10(limit(v(4),a7,1g))-3)
+			+a3/limit(v(4)*.001,a7/1e3,1g)
+			+a4*exp(-log10(limit(v(4),a7,1g))+3)
+ 			+a5*exp(log10(limit(v(4),a7,1g))-3)
+ 			-(a1+a2*(log10(-limit(v(4),-1g,-a7))-3)
+			-a3/limit(v(4)*.001,-1g,-a7/1e3)
+			+a4*exp(-log10(-limit(v(4),-1g,-a7))+3)
+ 			+a5*exp(log10(-limit(v(4),-1g,-a7))-3))
+ 			+limit(v(4)/a7*v(8),-v(8),v(8)))}
L_series	5 6  {L}  
H_H1		4 0  VH_H1 1k
VH_H1		5 7 0V
R_R2		0 4  1G  
R_series	6 2  {a6}  
V_V1		3 7  0V
E_x_zero	8 0 	VALUE={a1+a2*(log10(a7/1e3))+a3/(a7/1e3)
+			+a4*exp(-log10(a7/1e3))+a5*exp(log10(a7/1e3))}
R_x_zero	8 0  1G
C_parallel	1 5 {C}
.ENDS
*
.SUBCKT V8ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.4nF a1=9.66 a2=0.611 a3=2.244e-7 a4=-4.86e-3 a5=5.379
.ENDS
*
.SUBCKT V8ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=3nF a1=11.75 a2=0.9466 a3=-1.705e-7 a4=9.927e-5 a5=3.761
.ENDS
*
.SUBCKT V8ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=7500pF a1=12.36 a2=1.359 a3=-6.598e-7 a4=4.867E-3 a5=2.551
.ENDS
*
.SUBCKT V12ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.2nF a1=14.49 a2=0.917 a3=3.366e-7 a4=-7.291e-3 a5=8.068
.ENDS
*
.SUBCKT V12ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2.5nF a1=17.28 a2=1.392 a3=-2.508e-7 a4=1.46e-4 a5=5.531
.ENDS
*
.SUBCKT V12ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=6000pF a1=18.17 a2=1.999 a3=-9.703e-7 a4=7.157E-3 a5=3.752
.ENDS
*
.SUBCKT V18ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1nF a1=23.34 a2=1.736 a3=-1.961e-7 a4=-1.247e-3 a5=7.441 a6=26.61e-3
.ENDS
*
.SUBCKT V18ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2nF a1=22.38 a2=1.491 a3=-3.453e-7 a4=-3.679E-3 a5=3.491
.ENDS
*
.SUBCKT V18ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=5000pF a1=23.06 a2=1.69 a3=-3.326e-7 a4=-5.19E-3 a5=2.401
.ENDS
*
.SUBCKT V18ZA3 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=11nF a1=22.96 a2=1.699 a3=-1.2e-6 a4=2.25E-3 a5=1.971
.ENDS
*
.SUBCKT V18ZA40 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=22nF a1=21.92 a2=1.994 a3=2.525e-7 a4=-8.962e-3 a5=0.986 a6=.00841 a7=2e-4
.ENDS
*
.SUBCKT V22ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=800pF a1=28.53 a2=2.122 a3=-2.397e-7 a4=-1.524e-3 a5=9.094 a6=32.53e-3
.ENDS
*
.SUBCKT V22ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.6nF a1=27.85 a2=1.856 a3=-4.298e-7 a4=-4.578E-3 a5=4.345
.ENDS
*
.SUBCKT V22ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=4000pF a1=28.69 a2=2.103 a3=-4.139e-7 a4=-6.459E-3 a5=2.988
.ENDS
*
.SUBCKT V22ZA3 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=9nF a1=28.57 a2=2.114 a3=-1.494e-6 a4=2.8E-3 a5=2.453
.ENDS
*
.SUBCKT V24ZA50 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=15nF a1=27.52 a2=2.504 a3=3.17e-7 a4=-1.125e-2 a5=1.238 a6=.01056 a7=2e-4
.ENDS
*
.SUBCKT V27ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=600pF a1=35.01 a2=2.604 a3=-2.941e-7 a4=-1.871e-3 a5=11.16 a6=39.92e-3
.ENDS
*
.SUBCKT V27ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.3nF a1=33.57 a2=2.237 a3=-5.18e-7 a4=-5.518E-3 a5=5.237
.ENDS
*
.SUBCKT V27ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=3000pF a1=34.59 a2=2.535 a3=-4.989e-7 a4=-7.785E-3 a5=3.601
.ENDS
*
.SUBCKT V27ZA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=7nF a1=34.43 a2=2.548 a3=-1.8e-6 a4=3.375E-3 a5=2.957
.ENDS
*
.SUBCKT V27ZA60 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=13nF a1=32.88 a2=2.992 a3=3.788e-7 a4=-1.344e-2 a5=1.479 a6=.01262 a7=2e-4
.ENDS
*
.SUBCKT V33ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=500pF a1=42.79 a2=3.182 a3=-3.595e-7 a4=-2.287e-3 a5=13.64 a6=48.79e-3
.ENDS
*
.SUBCKT V33ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.1nF a1=41.02 a2=2.734 a3=-6.331e-7 a4=-6.745E-3 a5=6.401
.ENDS
*
.SUBCKT V33ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2700pF a1=42.27 a2=3.098 a3=-6.097e-7 a4=-9.515E-3 a5=4.402
.ENDS
*
.SUBCKT V33ZA5 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=6nF a1=42.09 a2=3.115 a3=-2.201e-6 a4=4.125E-3 a5=3.614
.ENDS
*
.SUBCKT V33ZA70 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=13nF a1=40.19 a2=3.657 a3=4.629e-7 a4=-1.643e-2 a5=1.808 a6=.01542 a7=2e-4
.ENDS
*
.SUBCKT V36ZA80 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=12nF a1=43.84 a2=3.989 a3=5.05e-7 a4=-1.792e-2 a5=1.973 a6=.01683 a7=2e-4
.ENDS
*
.SUBCKT V39ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=500pF a1=48.44 a2=3.24 a3=-1.463e-6 a4=2.248e-3 a5=10.68 a6=8.72e-3
.ENDS
*
.SUBCKT V39ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1nF a1=48.48 a2=3.231 a3=-7.483e-7 a4=-7.971E-3 a5=7.565
.ENDS
*
.SUBCKT V39ZA3 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2500pF a1=49.96 a2=3.662 a3=-7.206e-7 a4=-1.124E-3 a5=5.202
.ENDS
*
.SUBCKT V39ZA6 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=5.5nF a1=49.74 a2=3.681 a3=-2.601e-6 a4=4.875E-3 a5=4.271
.ENDS
*
.SUBCKT V39ZA20 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=12nF a1=53.96 a2=4.877 a3=6.649e-7 a4=-2.267e-2 a5=2.436 a6=.02064 a7=2e-4
.ENDS
*
.SUBCKT V47ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=400pF a1=58.38 a2=3.905 a3=-1.764e-6 a4=2.709e-3 a5=12.87 a6=10.51e-3
.ENDS
*
.SUBCKT V47ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=800pF a1=59.27 a2=4.393 a3=-4.392e-6 a4=2.642e-2 a5=7.903
.ENDS
*
.SUBCKT V47ZA3 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2000pF a1=58.11 a2=4.21 a3=-8.605e-6 a4=3.311e-2 a5=6.011 a7=2e-4
.ENDS
*
.SUBCKT V47ZA7 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=4.5nF a1=60.22 a2=4.42 a3=-1.137e-5 a4=2.646e-2 a5=3.556 a6=2.048e-2 a7=4e-4
.ENDS
*
.SUBCKT V47ZA20 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=11nF a1=57.93 a2=3.815 a3=-1.375e-5 a4=1.885e-2 a5=3.246 a7=4e-4
.ENDS
*
.SUBCKT V56ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=360pF a1=69.56 a2=4.653 a3=-2.101e-6 a4=3.228e-3 a5=15.33 a6=12.53e-3
.ENDS
*
.SUBCKT V56ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=700pF a1=70.62 a2=5.235 a3=-5.233e-6 a4=3.148E-2 a5=9.416
.ENDS
*
.SUBCKT V56ZA3 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1800pF a1=69.24 a2=5.016 a3=-1.025e-5 a4=3.945E-2 a5=7.162 a7=2e-4
.ENDS
*
.SUBCKT V56ZA8 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=3.9nF a1=71.75 a2=5.266 a3=-1.354e-5 a4=3.153e-2 a5=4.237 a6=2.44e-2 a7=4e-4
.ENDS
*
.SUBCKT V56ZA20 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=10nF a1=69.02 a2=4.546 a3=-1.639e-5 a4=2.246e-2 a5=3.867 a7=4e-4
.ENDS
*
.SUBCKT V68ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=300pF a1=84.47 a2=5.65 a3=-2.551e-6 a4=3.92e-3 a5=18.62 a6=15.21e-3
.ENDS
*
.SUBCKT V68ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=600pF a1=85.75 a2=6.356 a3=-6.354e-6 a4=3.823E-2 a5=11.43
.ENDS
*
.SUBCKT V68ZA3 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1500pF a1=84.07 a2=6.09 a3=-1.245e-5 a4=4.791E-2 a5=8.697 a7=2e-4
.ENDS
*
.SUBCKT V68ZA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=3.3nF a1=87.13 a2=6.395 a3=-1.644e-5 a4=3.828e-2 a5=5.145 a6=2.963e-2 a7=4e-4
.ENDS
*
.SUBCKT V68ZA20 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=10nF a1=83.81 a2=5.52 a3=-1.99e-5 a4=2.727e-2 a5=4.696 a7=4e-4
.ENDS
*
.SUBCKT V82ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=240pF a1=101.4 a2=6.744 a3=-3.749e-6 a4=22.78e-3 a5=7.373 a6=52.48e-3
.ENDS
*
.SUBCKT V82ZA2 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=500pF a1=93.01 a2=3.797 a3=-3.468e-6 a4=9.391e-4 a5=7.53
.ENDS
*
.SUBCKT V82ZA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1100pF a1=96.24 a2=4.92 a3=-6.434e-6 a4=1.621e-2 a5=4.15
.ENDS
*
.SUBCKT V82ZA12 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2.5nF a1=97.73 a2=5.35 a3=-6.116e-6 a4=9.57e-3 a5=2.712 a6=1.381e-2
.ENDS
*
.SUBCKT V100ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=180pF a1=123.7 a2=8.225 a3=-4.572e-6 a4=27.78e-3 a5=8.991 a6=64e-3
.ENDS
*
.SUBCKT V100ZA3 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=400pF a1=113.4 a2=4.63 a3=-4.229e-6 a4=1.145E-3 a5=9.183
.ENDS
*
.SUBCKT V100ZA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=900pF a1=117.36 a2=6 a3=-7.847e-6 a4=1.977E-2 a5=5.061
.ENDS
*
.SUBCKT V100ZA15 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2nF a1=119.18 a2=6.524 a3=-7.459e-6 a4=1.167e-2 a5=3.307 a6=1.684e-2
.ENDS
*
.SUBCKT V120ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=140pF a1=148.4 a2=9.869 a3=-5.486e-6 a4=33.33e-3 a5=10.79 a6=76.8e-3
.ENDS
*
.SUBCKT V120ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=300pF a1=136.1 a2=5.556 a3=-5.075e-6 a4=1.374E-3 a5=11.02
.ENDS
*
.SUBCKT V120ZA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=750pF a1=140.84 a2=7.2 a3=-9.416e-6 a4=2.372E-2 a5=6.073
.ENDS
*
.SUBCKT V120ZA6 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.7nF a1=143.02 a2=7.829 a3=-8.951e-6 a4=1.401e-2 a5=3.968 a6=2.021e-2
.ENDS
*
.SUBCKT V120ZA20 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.5nF a1=145.5 a2=8.295 a3=-4.5445e-6 a4=-3.328e-2 a5=2.071 a6=.01255
.ENDS
*
.SUBCKT V150ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=120pF a1=185.5 a2=12.34 a3=-6.858e-6 a4=41.67e-3 a5=13.49 a6=96e-3
.ENDS
*
.SUBCKT V150ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=250pF a1=170.1 a2=6.945 a3=-6.344e-6 a4=1.718E-3 a5=13.77
.ENDS
.SUBCKT V150ZA4 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=600pF a1=176.05 a2=9 a3=-1.177e-5 a4=2.965E-2 a5=7.592
.ENDS
*
.SUBCKT V150ZA8 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.4nF a1=178.77 a2=9.786 a3=-1.119e-5 a4=1.751e-2 a5=4.96 a6=2.527e-2
.ENDS
*
.SUBCKT V150ZA20 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1nF a1=181.8 a2=10.37 a3=-5.68e-6 a4=-4.16e-2 a5=2.588 a6=.01569
.ENDS
*
.SUBCKT V180ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=100pF a1=216.6 a2=12.82 a3=-1.111e-5 a4=68.17e-3 a5=10.5 a6=26.95e-3
.ENDS
*
.SUBCKT V180ZA1 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=200pF a1=204.2 a2=8.334 a3=-7.612e-6 a4=2.061E-3 a5=16.53
.ENDS
*
.SUBCKT V180ZA5 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=500pF a1=211.25 a2=10.8 a3=-1.412e-5 a4=3.558E-2 a5=9.11
.ENDS
*
.SUBCKT V180ZA10 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=1.1nF a1=214.5 a2=11.74 a3=-1.343e-5 a4=2.101e-2 a5=5.953 a6=3.032e-2
.ENDS
*
.SUBCKT V180ZA20 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=2.4nF a1=218.2 a2=12.44 a3=-6.816e-6 a4=-4.992e-2 a5=3.106 a6=.01882
.ENDS
*
.SUBCKT V205ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=100pF a1=246.6 a2=14.59 a3=-1.265e-5 a4=77.63e-3 a5=11.96 a6=30.69e-3
.ENDS
*
.SUBCKT V220ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=90pF a1=264.7 a2=15.66 a3=-1.358e-5 a4=83.32e-3 a5=12.84 a6=32.94e-3
.ENDS
*
.SUBCKT V240ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=80pF a1=288.8 a2=17.09 a3=-1.481e-5 a4=90.89e-3 a5=14 a6=35.93e-3
.ENDS
*
.SUBCKT V270ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=70pF a1=324.8 a2=19.22 a3=-1.666e-5 a4=0.1203 a5=15.76 a6=40.42e-3
.ENDS
*
.SUBCKT V330ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=60pF a1=397 a2=23.49 a3=-2.036e-5 a4=0.125 a5=19.26 a6=49.4e-3
.ENDS
*
.SUBCKT V360ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=55pF a1=433.1 a2=25.63 a3=-2.222e-5 a4=0.1363 a5=21.01 a6=53.89e-3
.ENDS
*
.SUBCKT V390ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=50pF a1=484.7 a2=33.1 a3=-3.247e-5 a4=0.1789 a5=21.36 a6=0.1704
.ENDS
*
.SUBCKT V430ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=45pF a1=534.4 a2=36.49 a3=-3.58e-5 a4=0.1972 a5=23.55 a6=0.1879
.ENDS
*
.SUBCKT V470ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=35pF a1=584.1 a2=39.88 a3=-3.913e-5 a4=0.2156 a5=25.75 a6=0.2054
.ENDS
*
.SUBCKT V620ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=33pF a1=770.5 a2=52.61 a3=-5.162e-5 a4=0.2844 a5=33.96 a6=0.2709
.ENDS
*
.SUBCKT V680ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=32pF a1=845.1 a2=57.71 a3=-5.662e-5 a4=0.3119 a5=37.25 a6=0.2971
.ENDS
*
.SUBCKT V715ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=31pF a1=888.5 a2=60.68 a3=-5.953e-5 a4=0.328 a5=39.17 a6=0.3124
.ENDS
*
.SUBCKT V750ZA05 1 2 PARAMS: TOL=0
X1	1 2	MOV PARAMS: T={1+TOL/100} L=12nH C=30pF a1=932 a2=63.65 a3=-6.245e-5 a4=0.344 a5=41.08 a6=0.3277
.ENDS
*
*
